US08486962B2
2-Picoline (10.0 g, 0.1 mol) was added to a solution of alpha-bromoacetophenone (21.4 g, 0.1 mol) in methanol (150 ml). The solution was heated to reflux for 1 hr. The solvent was evaporated under vacuum to yield a solid, which was recrystallised from ethyl acetate/methanol. The resulting white solid was dried under vacuum to give 2-methyl-1-(2-oxo-2-phenyl-ethyl)-pyridinium bromide (18.0 g, 86%).

reactant | 2-Picoline | 0.1 mol, 10.0 g | N1=C(C=CC=C1)C | C6H7N
reactant | alpha-bromoacetophenone | 0.1 mol, 21.4 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | methanol | 150 ml | CO | CH4O
product | 2-methyl-1-(2-oxo-2-phenyl-ethyl)-pyridinium bromide | 18.0 g, 86% | [Br-].CC1=[N+](C=CC=C1)CC(C1=CC=CC=C1)=O | InChI=1S/C14H14NO.BrH/c1-12-7-5-6-10-15(12)11-14(16)13-8-3-2-4-9-13;/h2-10H,11H2,1H3;1H/q+1;/p-1
